US05925662
1.7. 3-[2-(2-Phenylmethoxy-3,3,3-trifluoropropyl)-3,4-dihydro-2H-1-benzopyran-6-yl]-5(R)-methoxymethyloxazolidin-2-one
A solution of 4.2 g (9.9 mmol) of 2-(2-phenylmethoxy-3,3,3-trifluoropropyl)-6-ethoxycarbonylamino-3,4-dihydro-2H-1-benzopyran in 40 ml of dimethylformamide is stirred for 24 hours, at 130° C., in the presence of 140 mg (1.0 mmol) of potassium carbonate and of 3.4 g (26 mmol) of 4(S)-methoxymethyl-1,3-dioxolan-2-one added in 3 hours. The mixture is cooled, diluted with water and the product is extracted with diethyl ether. The organic phase is then dried over sodium sulfate, concentrated under reduced pressure and chromatographed on a silica column using a 30/70 mixture of ethyl acetate and cyclohexane. The product obtained is used as such in the following step.

reactant | 2-(2-phenylmethoxy-3,3,3-trifluoropropyl)-6-ethoxycarbonylamino-3,4-dihydro-2H-1-benzopyran | 9.9 mmol, 4.2 g | C1(=CC=CC=C1)COC(CC1OC2=C(CC1)C=C(C=C2)NC(=O)OCC)C(F)(F)F | C22H24F3NO4
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4(S)-methoxymethyl-1,3-dioxolan-2-one | 26 mmol, 3.4 g | COC[C@@H]1OC(OC1)=O | C5H8O4
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[2-(2-Phenylmethoxy-3,3,3-trifluoropropyl)-3,4-dihydro-2H-1-benzopyran-6-yl]-5(R)-methoxymethyloxazolidin-2-one | C1(=CC=CC=C1)COC(CC1OC2=C(CC1)C=C(C=C2)N2C(O[C@H](C2)COC)=O)C(F)(F)F | C24H26F3NO5
